US07547710B2
(2-isobutyl-6-methoxy-4-phenylquinolin-3-yl)methylamine
To a mixture of 2-isobutyl-6-methoxy-4-phenylquinoline-3-carbonitrile (1.00 g, 3.16 mmol), 25% aqueous ammonia (4 ml), tetrahydrofuran (30 ml) and methanol (50 ml) was added Raney-nickel (1 ml) and the mixture was stirred under a hydrogen atmosphere at 0.5 MPa, room temperature for 6 hrs. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography and recrystallized from n-hexane-ethyl acetate to give the title compound (0.44 g, yield 44%) as colorless crystals.

reactant | 2-isobutyl-6-methoxy-4-phenylquinoline-3-carbonitrile | 3.16 mmol, 1.00 g | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1C#N)C1=CC=CC=C1)OC | C21H20N2O
reactant | ammonia | 4 ml | N | H3N
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | Raney-nickel | 1 ml | [Ni] | Ni
solvent | methanol | 50 ml | CO | CH4O
product | (2-isobutyl-6-methoxy-4-phenylquinolin-3-yl)methylamine | 0.44 g, yield 44% | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1CN)C1=CC=CC=C1)OC | C21H24N2O
